US05256656
Endo-3,9-dimethyl-3,9-diazabicyclo[3.3.1)nonan-7-ol
To a suspension of lithium aluminum hydride (0.95 g, 25.0 mmol) in dry THF (40 ml) was added dropwise at room temperature while stirring a solution of 7-oxo-3,9-dimethyl3,9-diazabicyclo[3.3.1)nonane (2.78 g, 16.5 mmol) in dry THF (50 ml). After stirring at room temperature for 4.5 hrs, water (1 ml), 40% aqueous sodium hydroxide solution (1 ml) and water (3 ml) were added successively to a reaction solution. Further anhydrous magnesium sulfate was added and stirred, and thereafter the reaction was filtered. The filtrate was concentrated under reduced pressure to afford the title compound (2.62 g) as an oily product.

reactant | lithium aluminum hydride | 25.0 mmol, 0.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-oxo-3,9-dimethyl3,9-diazabicyclo[3.3.1)nonane | 16.5 mmol, 2.78 g | O=C1CC2CN(CC(C1)N2C)C | C9H16N2O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | Endo-3,9-dimethyl-3,9-diazabicyclo[3.3.1)nonan-7-ol | 2.62 g | CN1CC2CC(CC(C1)N2C)O | C9H18N2O
